US09023760B2
Step 1: Preparation of 3-(3,4′-Dichloro-5-methyl-biphenyl-4-yl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one
To a solution of 3-(4-bromo-2-chloro-6-methyl-phenyl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one (compound P2.34) (150 mg, 0.361 mmol) in dimethoxyethane (10 ml) under argon atmosphere was added tetrakis(triphenyl-phosphine)palladium(0) (25 mg, 0.022 mmol) and the mixture stirred at room temperature for 15 minutes. After further addition of water (2 ml), 4-chlorophenylboronic acid (68 mg, 0.435 mmol) and sodium carbonate (153 mg, 1.444 mmol), the mixture was heated at 80° C. for 10 hours. The reaction mixture was acidified at room temperature to pH 4 with 1N hydrochloric acid and extracted with ethyl acetate (4×15 ml). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated. The residue was triturated with diethyl ether, stirred at room temperature, filtered and dried. Yield: 114 mg of 3-(3,4′-dichloro-5-methyl-biphenyl-4-yl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one as a pale brown solid, mp 236° C. (dec).

reactant | 3-(4-bromo-2-chloro-6-methyl-phenyl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one | 0.361 mmol, 150 mg | BrC1=CC(=C(C(=C1)C)C=1C(N(C2(C1O)CCN(CC2)OC)C)=O)Cl | C17H20BrClN2O3
reactant | 4-chlorophenylboronic acid | 0.435 mmol, 68 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 1.444 mmol, 153 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 2 ml | O | H2O
product | 3-(3,4′-Dichloro-5-methyl-biphenyl-4-yl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one | ClC=1C=C(C=C(C1C=1C(N(C2(C1O)CCN(CC2)OC)C)=O)C)C2=CC=C(C=C2)Cl | C23H24Cl2N2O3
